datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"CCc1cc(C(C)C)ccc1[O-:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>CCc1cc(C(C)C)ccc1[O:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"C1CCN(C2CC[NH:10]CC2)CC1.COP(=O)(c1ccc(N)cc1)[N:21](c1nccs1)[H:20]>>C1CCN(C2CC[NH+:10]([H:20])CC2)CC1.COP(=O)(c1ccc(N)cc1)[N-:21]c1nccs1 10=20;20,21=21",
"CC1(C)OC(=O)C[C@@H]2[C@H]1C[NH+:21]([H:20])[C@@H]2C(=O)[O-].CCCCCCCCCCCCCCCCCc1c2ccccc2[n:10]c2ccccc12>>CC1(C)OC(=O)C[C@@H]2[C@H]1C[NH:21][C@@H]2C(=O)[O-].CCCCCCCCCCCCCCCCCc1c2ccccc2[n+:10]([H:20])c2ccccc12 10=20;20,21=21",
"CC(=O)C1(c2cccc(O)c2)CC[N:10](C)CC1.C[N+:21](C)(CCC/N=C(\c1ccccc1)c1ccccc1Cl)[H:20]>>CC(=O)C1(c2cccc(O)c2)CC[N+:10](C)([H:20])CC1.C[N:21](C)CCC/N=C(\c1ccccc1)c1ccccc1Cl 10=20;20,21=21",
"C=C(C)C(=O)OC(C)C[N+:21](C)(C)[H:20].c1ccc2c([NH2:10])cccc2c1>>C=C(C)C(=O)OC(C)C[N:21](C)C.c1ccc2c([NH2+:10][H:20])cccc2c1 10=20;20,21=21",
"Nc1cc[n:10]c2c1ncn2CCOCP(=O)(O)O.c1ccc(-c2cccc[n+:21]2[H:20])nc1>>Nc1cc[n+:10]([H:20])c2c1ncn2CCOCP(=O)(O)O.c1ccc(-c2cccc[n:21]2)nc1 10=20;20,21=21",
"C#C[C@]1(O)C[C@H](C)[NH+:21]([H:20])[C@@H]2CCCC[C@H]21.CC(C[Si](C)(C)CCCCl)C(=O)[O-:10]>>C#C[C@]1(O)C[C@H](C)[NH:21][C@@H]2CCCC[C@H]21.CC(C[Si](C)(C)CCCCl)C(=O)[O:10][H:20] 10=20;20,21=21",
"CC(C)(C)[O-:10].C[N+]1=CC=C(C(=O)[CH:21](C2=CC=C(C(F)(F)F)C=C2)[H:20])C=C1>>CC(C)(C)[O:10][H:20].C[N+]1=CC=C(C(=O)[CH-:21]C2=CC=C(C(F)(F)F)C=C2)C=C1 10=20;20,21=21",
"C1=CC/C(=[O+:21]/[H:20])C=C1.Cc1cncc[n:10]1>>C1=CCC(=[O:21])C=C1.Cc1cncc[n+:10]1[H:20] 10=20;20,21=21",
"C[N:10](C)N.Cc1cc(C)c(C)c(C(=O)[O:21][H:20])c1C>>C[N+:10](C)(N)[H:20].Cc1cc(C)c(C)c(C(=O)[O-:21])c1C 10=20;20,21=21",
"CC(c1ccccc1)[N:10]1CC(O[Si](C)(C)C)C1.CC12CC3(C)CC(C)(C1)C[N+:21]([H:20])(C2)C3>>CC(c1ccccc1)[N+:10]1([H:20])CC(O[Si](C)(C)C)C1.CC12CC3(C)CC(C)(C1)C[N:21](C2)C3 10=20;20,21=21",
"CCC[N:10](CCC)CCCNC(=O)/C=N/[O-].CN(C)c1nccc[n+:21]1[H:20]>>CCC[N+:10](CCC)(CCCNC(=O)/C=N/[O-])[H:20].CN(C)c1nccc[n:21]1 10=20;20,21=21",
"CC(C)[NH:10]CCc1ccc([O-])cc1.O=[N+]([O-])[CH:21](SC1=CC=CC=C1)[H:20]>>CC(C)[NH+:10](CCc1ccc([O-])cc1)[H:20].O=[N+]([O-])[CH-:21]SC1=CC=CC=C1 10=20;20,21=21",
"O=C(O)c1ccc[o+:21]1[H:20].O=CC(=O)[O-:10]>>O=C(O)c1ccc[o:21]1.O=CC(=O)[O:10][H:20] 10=20;20,21=21",
"CC(C)[NH2+]CC(=O)[O:21][H:20].C[C@@H]1[C@@H](N)[C@H]1[NH2:10]>>CC(C)[NH2+]CC(=O)[O-:21].C[C@@H]1[C@@H](N)[C@H]1[NH2+:10][H:20] 10=20;20,21=21",
"CC(=O)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].NCCCC[NH2:10]>>CC(=O)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.NCCCC[NH2+:10][H:20] 10=20;20,21=21",
"CC[NH:10]CC[Se-].C[C@H](CCC[NH+:21](Cc1ccccc1)[H:20])[C@H]1CC[C@H]2[C@@H]3[C@H](O)C[C@@H]4C[C@H](O)CC[C@]4(C)[C@H]3CC[C@]12C>>CC[NH+:10](CC[Se-])[H:20].C[C@H](CCC[NH:21]Cc1ccccc1)[C@H]1CC[C@H]2[C@@H]3[C@H](O)C[C@@H]4C[C@H](O)CC[C@]4(C)[C@H]3CC[C@]12C 10=20;20,21=21",
"O=C(C1=CC=CC=C1)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].O[C@H]1CCCC[C@@H]1C[NH2:10]>>O=C(C1=CC=CC=C1)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.O[C@H]1CCCC[C@@H]1C[NH2+:10][H:20] 10=20;20,21=21",
"Cc1cn[n+:21]([H:20])cc1C.Cn1c[n:10]c2c1C(=S)NC(=O)N2>>Cc1cn[n:21]cc1C.Cn1c[n+:10]([H:20])c2c1C(=S)NC(=O)N2 10=20;20,21=21",
"CN(C)CCCNc1cc[n+:21]([H:20])c2ccccc12.Cc1cccc(C(=O)[O-])c1[O-:10]>>CN(C)CCCNc1cc[n:21]c2ccccc12.Cc1cccc(C(=O)[O-])c1[O:10][H:20] 10=20;20,21=21",
"CCCCCC[N+:21](CC(C)O)(CC(O)CC)[H:20].CCC[S-:10]>>CCCCCC[N:21](CC(C)O)CC(O)CC.CCC[S:10][H:20] 10=20;20,21=21",
"CC(C)(C)[NH:10]C1CCCCC1.O=C(C1=CC=CC=C1)[C:21](C1=CC=CC=C1)([N+](=O)[O-])[H:20]>>CC(C)(C)[NH+:10](C1CCCCC1)[H:20].O=C(C1=CC=CC=C1)[C-:21](C1=CC=CC=C1)[N+](=O)[O-] 10=20;20,21=21",
"CC(Cl)C[N:10](C)C.CN(C)C([OH2+])[O:21][H:20]>>CC(Cl)C[N+:10](C)(C)[H:20].CN(C)C([OH2+])[O-:21] 10=20;20,21=21",
"CC[C@@H]1C(=O)OC[C@H]1Cc1c[n+:21]([H:20])cn1C.O=C([O-])CCCCC[N:10]1CCCCC1>>CC[C@@H]1C(=O)OC[C@H]1Cc1c[n:21]cn1C.O=C([O-])CCCCC[N+:10]1([H:20])CCCCC1 10=20;20,21=21",
"CCC[NH2+]CC[S-:10].O=C(CC(c1ccccc1)c1ccccc1Cl)[O:21][H:20]>>CCC[NH2+]CC[S:10][H:20].O=C(CC(c1ccccc1)c1ccccc1Cl)[O-:21] 10=20;20,21=21",
"C1CCN(C2CC[NH+:21]([H:20])CC2)CC1.Cc1ccc2[nH]c[n:10]c2c1>>C1CCN(C2CC[NH:21]CC2)CC1.Cc1ccc2[nH]c[n+:10]([H:20])c2c1 10=20;20,21=21",
"Nc1ccc(S(=O)(=O)[N-:10]c2ccc(O)cn2)cc1.[NH3+]CCc1cc[n+:21]([H:20])cc1>>Nc1ccc(S(=O)(=O)[N:10](c2ccc(O)cn2)[H:20])cc1.[NH3+]CCc1cc[n:21]cc1 10=20;20,21=21",
"CCNCC[NH:10]CC.C[N+]1=CC=C([CH:21](C(=O)C2=CC=CC=C2)[H:20])C=C1>>CCNCC[NH+:10](CC)[H:20].C[N+]1=CC=C([CH-:21]C(=O)C2=CC=CC=C2)C=C1 10=20;20,21=21",
"CN(C)C1CC(C)(C)[NH:10]C(C)(C)C1.[H][C:21](C(C)=O)(C(C)=O)[H:20]>>CN(C)C1CC(C)(C)[NH+:10]([H:20])C(C)(C)C1.[H][C-:21](C(C)=O)C(C)=O 10=20;20,21=21",
"O=C([O-])C[O-:10].[O-]c1nc2nc[nH]c2c([O-])[n+:21]1[H:20]>>O=C([O-])C[O:10][H:20].[O-]c1nc2nc[nH]c2c([O-])[n:21]1 10=20;20,21=21",
"COC(=O)C1=CCC[NH:10]C1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>COC(=O)C1=CCC[NH+:10]([H:20])C1.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"C[N+:21](CCC#N)(CCC#N)[H:20].O=C(Cc1[nH]c2ccccc2[nH+]1)[O-:10]>>C[N:21](CCC#N)CCC#N.O=C(Cc1[nH]c2ccccc2[nH+]1)[O:10][H:20] 10=20;20,21=21",
